US06051358
Preparation of 2,6-Bis(2,4-dihydroxybenzyl)-3,4-dimethylphenol
In a one liter reaction flask were dissolved 220.0 g of resorcinol in 300 ml of de-mineralized water. To this solution 18.22 g of 2,6-bis(hydroxymethyl)-3,4-dimethylphenol was added and stirred until it dissolved. 5 ml of concentrated hydrochloric acid was then added and the reaction mixture stirred at ambient temperature for about 15 hours. The mixture was then chilled to -12° C. and the crystalline precipitate isolated in a chilled Buchner funnel. The crude product was suspended in 300 ml of de-mineralized water and re-isolated by vacuum filtration. The wet solid was first partially air dried and then vacuum oven dried at 60° C. to yield 20.4 g product having a purity of about 95% as determined by HPLC.

reactant | resorcinol | 220.0 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 2,6-bis(hydroxymethyl)-3,4-dimethylphenol | 18.22 g | OCC1=C(C(=CC(=C1C)C)CO)O | C10H14O3
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 2,6-Bis(2,4-dihydroxybenzyl)-3,4-dimethylphenol | 20.4 g | OC1=C(CC2=C(C(=CC(=C2C)C)CC2=C(C=C(C=C2)O)O)O)C=CC(=C1)O | C22H22O5
